US05429774
2,3-Benzofuran (0.084 mole) was added to a reaction flask containing 100 milliliters of anhydrous tetrahydrofuran and stirred. The reaction was maintained under an argon atmosphere at -78° C. A 1.6 molar solution of n-butyl lithium in hexane (0.1 mole of n-butyl lithium) was added drop wise to the reaction which was stirred for 3 hours at -78° C. The cooling bath was removed and stirring was continued for 3 hours after the temperature of the reaction mixture reached room temperature. A solution of benzonitrile (0.084 mole, 8.7 grams in 20 milliliters of anhydrous tetrahydrofuran) was added dropwise and the reaction mixture was stirred for 16 hours at room temperature. A 5 weight percent aqueous hydrochloric acid solution (50 milliliters) was added to the reaction flask and the reaction mixture was refluxed for 5 hours. The reaction mixture was cooled to room temperature and the organic layer was separated. The aqueous layer was extracted with three 30 milliliter portions of diethyl ether. The extracts and organic layer were combined and washed with water. Benzoic acid that formed from the hydrolysis of unreacted benzonitrile was removed by washing the organic layer first with a 10 weight percent sodium hydroxide solution then with water. The washed organic layer was dried over anhydrous sodium sulfate. The solvents, diethyl ether, tetrahydrofuran, and hexane, were removed under vacuum to yield an oily product containing 2-benzoylbenzofuran, which was not purified but used directly in the next step.

reactant | 2,3-Benzofuran | 0.084 mole | C1=CC=C2C(=C1)C=CO2 | C8H6O
reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 0.1 mole | CCCCCC | C6H14
reactant | benzonitrile | 0.084 mole, 20 milliliters, 8.7 grams | C(C1=CC=CC=C1)#N | C7H5N
reactant | hydrochloric acid | 50 milliliters | Cl | ClH
reactant | tetrahydrofuran | 100 milliliters | O1CCCC1 | C4H8O
product | Benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
